US09107916B2
B. 2-[5-[(2-methoxy-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2-methoxy-4-methylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 3.37 (3H, s), 3.89 (3H, s), 5.23 (2H, s), 5.80 (1H, d, J=2.0 Hz), 6.76-6.79 (2H, m), 7.24-7.26 (1H, m), 7.37 (1H, dd, J=1.2 Hz, 4.8 Hz), 7.58 (1H, d, J=1.6 Hz), 8.08 (1H, s), 8.70 (1H, d, J=4.4 Hz). [M+H] Calc'd for C18H16N4O2, 321. Found, 321.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2-methoxy-4-methylphenyl)methanol | COC1=C(C=CC(=C1)C)CO | C9H12O2
product | 2-[5-[(2-methoxy-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | COC1=C(C=CC(=C1)C)COC1=CC=NN1C1=NC=CC(=C1)C#N | C18H16N4O2
